US06730803B2
4-Cyano-3-hydroxy-4-methylpentanoic acid (7.7 g, 49 mmol) was dissolved in DMF (50 mL) and potassium carbonate (10.16 g, 73.5 mmol) was added. Dimethyl sulfate (8.03 g, 63.7 mmol) was dropwise added with vigorous stirring. The mixture was stirred at room temperature for 2 hr and toluene (50 mL) was added. 2N Aqueous hydrochloric acid solution (40 mL, 80 mmol) was dropwise added with vigorous stirring. After partitioning, a toluene layer was separated and an aqueous layer was extracted again with toluene (25 mL). The toluene layers were combined and concentrated under reduced pressure to give methyl 4-cyano-3-hydroxy-4-methylpentanoate (7.13 g, 41.6 mmol). The yield was 85% relative to 4-cyano-3-hydroxy-4-methylpentanoic acid.

reactant | 4-Cyano-3-hydroxy-4-methylpentanoic acid | 49 mmol, 7.7 g | C(#N)C(C(CC(=O)O)O)(C)C | C7H11NO3
reactant | potassium carbonate | 73.5 mmol, 10.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | Dimethyl sulfate | 63.7 mmol, 8.03 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | hydrochloric acid | 80 mmol, 2N, 40 mL | Cl | ClH
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 4-cyano-3-hydroxy-4-methylpentanoate | 41.6 mmol, 7.13 g, yield was 85% | C(#N)C(C(CC(=O)OC)O)(C)C | C8H13NO3
